US09388153B2
Approximately forty oven dried 3 Å molecular sieves were added to a solution of 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-one (66 mg, 0.292 mmol) and isopropyl 2-(3-aminophenoxyl)acetate (122 mg, 0.583 mmol) in toluene (3 mL) at room temperature. The reaction was heated in a 120° C. oil bath and allowed to stir overnight for approximately 16 hours. The reaction was cooled to room temperature and sodium borohydride (44 mg, 1.2 mmol) was added. The solution was stirred for 4 hours at room temperature. The reaction was quenched with saturated aqueous NaHCO3 (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (12 g column, hexanes→100% ethyl acetate/hexanes, gradient) to afford 25 mg (20%) of isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate.

reactant | 6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-one | 0.292 mmol, 66 mg | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)=O | C15H11FO
reactant | isopropyl 2-(3-aminophenoxyl)acetate | 0.583 mmol, 122 mg | NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C11H15NO3
reactant | sodium borohydride | 1.2 mmol, 44 mg | [BH4-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | isopropyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate | 25 mg, 20% | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C26H26FNO3
